US08729308B2
Preparation of 3-(dimethylamino)-2-methyl-1-(3-nitro-phenyl)-propan-1-one (V)
N,N-dimethylamine HCl (80.0 g, 0.982 mol), paraformaldehyde (45 g, 1.499 mol), water (30 g, 1.667 mol) and acetic anhydride (30 ml/32.4 g, 0.32 mol) are added into a 1 liter four-neck flask, provided with mechanical stirrer, thermometer and dropping funnel. The suspension is slowly heated up to 50° C. and stirred for 30 minutes. Then, acetic anhydride (200 ml/216 g, 2.12 mol) is dripped thereinto slowly and portionwise. The reaction mixture is stirred at 50-70° C. for at least 1 hour then 1-(3-nitrophenyl)propan-1-one (150 g, 0.837 mol) and acetic anhydride (200 ml/216 g, 2.12 mol) suspension is added. The reaction mixture is stirred at about 70° C. for 16 hours, then conversion is monitored using HPLC. When the conversion is >90% about 200 ml of solvent are distilled under vacuum and 600 ml of ethanol are added. The obtained suspension is cooled to 20-25° C. and allowed to stir for 3 hours. Then it is filtered and washed with 300 ml of acetone. About 210 g of almost colourless solid and with HPLC purity >99% are obtained. The wet product is suspended in water (600 ml), t-butyl-methylether (600 ml) and the pH is adjusted to 10-12 with 28% sodium hydroxide. The two phases are stirred for about 30 minutes then they are separated. The organic phase is concentrated to oily residue. About 182 g of slightly yellowish oil (about 92% yield) with HPLC purity >99% are obtained.

reactant | N,N-dimethylamine HCl | 0.982 mol, 80.0 g | Cl.CNC
reactant | paraformaldehyde | 1.499 mol, 45 g | C=O | CH2O
reactant | acetic anhydride | 0.32 mol, 30 ml, 32.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 2.12 mol, 200 ml, 216 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(3-nitrophenyl)propan-1-one | 0.837 mol, 150 g | [N+](=O)([O-])C=1C=C(C=CC1)C(CC)=O | C9H9NO3
reactant | acetic anhydride | 2.12 mol, 200 ml, 216 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 600 ml | O | H2O
solvent | water | 1.667 mol, 30 g | O | H2O
solvent | t-butyl-methylether | 600 ml | C(C)(C)(C)OC | C5H12O
product | 3-(dimethylamino)-2-methyl-1-(3-nitro-phenyl)-propan-1-one | about 92% yield | CN(CC(C(=O)C1=CC(=CC=C1)[N+](=O)[O-])C)C | C12H16N2O3
